US04585785
Trans-4-(2,6-dichlorophenoxy)-1-ethyl-3-pyrrolidinol Hydrochloride
A mixture of 11.3 g. (0.10 mole) of 1-ethyl-3,4-epoxypyrrolidine, 18.0 g. (0.11 mole) of 2,6-dichlorophenol and 2 drops concentrated hydrochloric acid was heated on a steam bath overnight. The oil was dissolved in methylene chloride and wahed with three 50-ml. portions of 5% sodium hydroxide an one 50-ml. portion of water. The methylene chloride solution was dried over anhydrous sodium sulfate, concentrated and chromatogrpahed on silica gel to give 12.9 g. (47%) of and oil residue. The oil was converted to the hydrchloride and recrystallized from isopropyl alcohol-diethyl ether to yield 12.3 g. (39%), m.p. 160°-162° C.

reactant | 1-ethyl-3,4-epoxypyrrolidine | 0.10 mole | C(C)N1CC2C(C1)O2 | C6H11NO
reactant | 2,6-dichlorophenol | 0.11 mole | ClC1=C(C(=CC=C1)Cl)O | C6H4Cl2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | O | H2O
catalyst | hydrochloric acid | 2 drops | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Trans-4-(2,6-dichlorophenoxy)-1-ethyl-3-pyrrolidinol Hydrochloride | Cl.ClC1=C(O[C@H]2[C@@H](CN(C2)CC)O)C(=CC=C1)Cl | InChI=1S/C12H15Cl2NO2.ClH/c1-2-15-6-10(16)11(7-15)17-12-8(13)4-3-5-9(12)14;/h3-5,10-11,16H,2,6-7H2,1H3;1H/t10-,11-;/m1./s1
